US07981903B2
A mixture of 6-(methyloxy)-7-nitro-1,2,3,4-tetrahydroquinoline (0.19 g, 0.91 mmol) and triethylamine (0.5 mL, 3.6 mmol, Aldrich) in dichloromethane was treated with dropwise addition of acryloyl chloride (0.3 mL, 3.7 mmol, Pfaltz and Bauer). A catalytic amount of 4-dimethylaminopyridine was added and the reaction stirred overnight. The mixture was diluted with saturated aqueous ammonium chloride and extracted with ethyl acetate. The organic layer was dried over magnesium sulfate, filtered, and concentrated to give 1-acryloyl-6-(methyloxy)-7-nitro-1,2,3,4-tetrahydroquinoline which was taken directly to the next step without determination of yield. ESIMS (M+H)+=263.

reactant | 6-(methyloxy)-7-nitro-1,2,3,4-tetrahydroquinoline | 0.91 mmol, 0.19 g | COC=1C=C2CCCNC2=CC1[N+](=O)[O-] | C10H12N2O3
reactant | triethylamine | 3.6 mmol, 0.5 mL | C(C)N(CC)CC | C6H15N
reactant | acryloyl chloride | 3.7 mmol, 0.3 mL | C(C=C)(=O)Cl | C3H3ClO
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ammonium chloride | [Cl-].[NH4+]
product | 1-acryloyl-6-(methyloxy)-7-nitro-1,2,3,4-tetrahydroquinoline | C(C=C)(=O)N1CCCC2=CC(=C(C=C12)[N+](=O)[O-])OC | C13H14N2O4
